US04199346
2-(7-Chloro-2-dibenzofuranyloxy) butyric acid
110 g (0.5 mole) 7-Chloro-2-hydroxydibenzofuran is dissolved in 200 g (2.3 mole) of butyrolactone. To this solution is added 27.5 g (0.57 mole) sodium hydride 50% dispersion in oil (prewashed with petroleum ether) in small increments. When hydrogen evolution ceases the solution is heated to 120° C. for 2 hours. The excess butyrolactone was distilled off under high vacuum. The crude product was dissolved in water and precipitated into dilute acid. The product was filtered and redissolved in sodium bicarbonate solution. The solution was charcoal treated and precipitated in dilute acid filtered and dried. 137 g., m.p. 143°-145° C. were obtained. This Example corresponds to Example 69 in Table I.

reactant | 7-Chloro-2-hydroxydibenzofuran | 0.5 mole, 110 g | ClC1=CC2=C(C3=C(O2)C=CC(=C3)O)C=C1 | C12H7ClO2
reactant | butyrolactone | 2.3 mole, 200 g | C1(CCCO1)=O | C4H6O2
reactant | sodium hydride | 0.57 mole, 27.5 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
product | 2-(7-Chloro-2-dibenzofuranyloxy) butyric acid | ClC1=CC2=C(C3=C(O2)C=CC(=C3)OC(C(=O)O)CC)C=C1 | C16H13ClO4
